US07662832B2
[7-(3,4-dihydro-1H-isoquinolin-2-yl)-1-(3-fluorobenzyl)-2-methyl-1H-pyrrolo[2,3-c]pyridin-3-ylmethyl]-trimethylammonium iodide
The compound prepared in Example 619 was treated with a saturated sodium bicarbonate solution to obtain [7-(3,4-dihydro-1H-isoquinolin-2-yl)-1-(3-fluorobenzyl)-2-methyl-1H-pyrrolo[2,3-c]pyridin-3-ylmethyl]-dimethylamine. Iodomethane (40 μl, 0.64 mmol) was added to a solution of [7-(3,4-dihydro-1H-isoquinolin-2-yl)-1-(3-fluorobenzyl)-2-methyl-1H-pyrrolo[2,3-c]pyridin-3-ylmethyl]-dimethylamine (136 mg, 0.32 mmol) in ethanol (2 ml). The reaction mixture was stirred overnight at room temperature. The resulting precipitate was filtered and then dried to give the titled compound as a white solid (Yield 82%).

reactant | Iodomethane | 0.64 mmol, 40 μl | IC | CH3I
reactant | [7-(3,4-dihydro-1H-isoquinolin-2-yl)-1-(3-fluorobenzyl)-2-methyl-1H-pyrrolo[2,3-c]pyridin-3-ylmethyl]-dimethylamine | 0.32 mmol, 136 mg | C1N(CCC2=CC=CC=C12)C=1N=CC=C2C1N(C(=C2CN(C)C)C)CC2=CC(=CC=C2)F | C27H29FN4
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | [7-(3,4-dihydro-1H-isoquinolin-2-yl)-1-(3-fluorobenzyl)-2-methyl-1H-pyrrolo[2,3-c]pyridin-3-ylmethyl]-trimethylammonium iodide | Yield 82% | [I-].C1N(CCC2=CC=CC=C12)C=1N=CC=C2C1N(C(=C2C[N+](C)(C)C)C)CC2=CC(=CC=C2)F | InChI=1S/C28H32FN4.HI/c1-20-26(19-33(2,3)4)25-12-14-30-28(31-15-13-22-9-5-6-10-23(22)18-31)27(25)32(20)17-21-8-7-11-24(29)16-21;/h5-12,14,16H,13,15,17-19H2,1-4H3;1H/q+1;/p-1
